US07915411B2
N-(4-Bromo-phenyl)-4-chloro-3-nitro-benzenesulfonamide
A solution of 4-chloro-3-nitrobenzenesulfonyl chloride (2.561 g, 10 mmol) in acetic acid (20 mL) was treated with 4-bromoaniline (1.72 g, 10 mmol) and anhydrous sodium acetate (1.23 g, 15 mmol), then heated at 100° for 30 minutes. The reaction was cooled to room temperature and the acetic acid removed by rotary evaporation under vacuum. The residue was taken up in ethyl acetate (100 mL) and washed with water (2×25 mL) and brine (25 mL). The organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum, co-evaporating the oil with methylene chloride/hexanes. Purification by silica gel chromatography using methylene chloride followed by 5% ethyl acetate/methylene chloride as eluent provided the title compound as a yellow solid (2.038 g, 52%).

reactant | 4-chloro-3-nitrobenzenesulfonyl chloride | 10 mmol, 2.561 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
reactant | 4-bromoaniline | 10 mmol, 1.72 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | sodium acetate | 15 mmol, 1.23 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | N-(4-Bromo-phenyl)-4-chloro-3-nitro-benzenesulfonamide | 2.038 g, 52% | BrC1=CC=C(C=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C12H8BrClN2O4S
